Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
codeine / morphine / gabapentin / Mapap (acetaminophen)
 
Attending: ___
 
Chief Complaint:
Transient malaise likely ___ hypertension
Hemorrhagic conversion of prior left temporoparietal ischemic 
infarct
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ woman with atrial fibrillation on Coumadin
and recent (___) left parietal ischemic infarct while
reportedly therapeutic on Coumadin, who presents with ___ days
fogginess, specifically noting that she has had difficulty
putting her thoughts together. Since her stroke, she had resumed
Coumadin approximately 10 days ago. She has not had any focal
deficits or weakness. No recent fevers or chills. She does
endorse a global headache with a dull pressure pain that is not
throbbing in quality. Her headache has occurred throughout the
course of the day. It is not positional in nature, does not wake
her up at night, and has not been progressively worse over the
past week. 

She initially presented to OSH then was transferred to ___ for
further management out of possible concern for hemorrhagic
transformation. OSH workup notable for INR 2.3, SBP 180s, for
which she was managed w 2x 10mg IV labetalol and 1U FFP. INR on
presentation to ___ was 1.9. Per chart review, last week she
had a supratherapeutic INR in the 5s but this was adjusted
accordingly. Prior to re-initiation of Coumadin, she was only
having her INR checked once a month. Since her stroke in
___, she resumed Coumadin approximately 7 days later with
more frequent INR follow-ups. No recent falls.

On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. 
Denies difficulties producing or comprehending speech.  Denies
focal weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 

 
Past Medical History:
afib on Coumadin
CHF, EF unknown
h/o prior stroke (left posterior parietal ischemic infarct,
reportedly diagnosed ___
hyperthyroidism
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
Physical Exam:
Vitals: afebrile, HR70s, BP 130s/60s, RR 16 SaO2 97 RA
General: Awake, comfortable, appears younger than stated age
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, ___ backward with one error.
Language is fluent with intact repetition and comprehension.
Normal prosody. There were no paraphasic errors. Pt was able to
name both high and low frequency objects.  Able to read without
difficulty. Speech was not dysarthric. Able to follow both
midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
intact to finger counting. Extinguishes on right w DSS to finger
movement.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
Strength is full and symmetric. 

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: deferred

DISCHARGE PHYSICAL EXAM
======================-
Physical Exam:
Vitals: afebrile, HR70s, BP 130s/60s, RR 16 SaO2 97 RA
General: Awake, comfortable, appears younger than stated age
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent with intact 
repetition and comprehension.Normal prosody. There were no 
paraphasic errors. Pt was able to
name both high and low frequency objects.  Able to read without
difficulty. Speech was not dysarthric. Able to follow both
midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
intact to finger counting. Extinguishes on right w DSS to finger
movement.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
Strength is full and symmetric. 

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: deferred

 
Pertinent Results:
PERTINENT LABS
================
___ 04:55AM BLOOD WBC-6.3 RBC-4.46 Hgb-8.8* Hct-28.4* 
MCV-64* MCH-19.7* MCHC-31.0* RDW-18.8* RDWSD-40.1 Plt ___
___ 02:27AM BLOOD Neuts-64.1 ___ Monos-9.7 Eos-2.9 
Baso-0.4 Im ___ AbsNeut-4.49 AbsLymp-1.58 AbsMono-0.68 
AbsEos-0.20 AbsBaso-0.03
___ 02:27AM BLOOD ___ 04:55AM BLOOD Glucose-93 UreaN-25* Creat-0.7 Na-142 
K-3.9 Cl-105 HCO3-25 AnGap-12
___ 04:55AM BLOOD Calcium-8.4 Phos-3.3 Mg-2.1
___ 06:05AM BLOOD %HbA1c-5.1 eAG-100
___ 02:27AM BLOOD Triglyc-72 HDL-51 CHOL/HD-2.6 LDLcalc-66
___ 02:27AM BLOOD TSH-2.7
___ 08:50AM URINE Color-Yellow Appear-Clear Sp ___
___ 08:50AM URINE Blood-TR* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 08:50AM URINE RBC-3* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-1
___ 08:50AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

IMAGING
=========
___ CTA HEAD AND NECK
  
IMPRESSION: 
  
  
1. Suspected petechial hemorrhagic transformation of the 
subacute left 
parieto-occipital infarct. 
2. Intracranial atherosclerotic vascular disease, with 
high-grade stenosis of 
a left fetal type PCA and moderate stenosis within the right P1 
segment. 
3. Extracranial atherosclerosis, with approximately 50% 
narrowing of the 
proximal left internal carotid artery due to atheromatous 
plaque.  There is 
also moderate stenosis of the origin of the right vertebral 
artery. 
4. 2 mm outpouching from the V3 segment of the left vertebral 
artery may be 
related to vascular tortuosity versus a small aneurysm. 
5. Probable pulmonary arterial hypertension and small airways 
disease with air 
trapping in the lung apices. 
  
NOTIFICATION:  The petechial hemorrhagic transformation was 
known to the 
Neurology team at the time of this dictation as documented in 
the electronic 
medical record. 

___ CXR 
IMPRESSION:    
Severe cardiomegaly and elongation of the aorta. 
There is no consolidation to suspect pneumonia. There is no 
pleural effusion 
or pneumothorax bilaterally. There is elevation of the right 
hemidiaphragm. 

___ ___ 
IMPRESSION:   
1. Stable subacute infarct with small area of cortical petechial 

microhemorrhage. 
2. No parenchymal hematoma. 
3. Findings consistent with severe chronic small vessel ischemic 
changes. 

 
Brief Hospital Course:
P: ___ year old woman with history of AFib on Coumadin, recent 
left temporo-parietal ischemic infarct ~4 weeks ago, who 
presented with transient feeling of malaise, transferred from 
OSH for petechial hemorrhage in the site of the infarct, for 
which she was given FFP and vitamin K for INR reversal.

A: The patient was admitted to the Stroke service for further 
management. Her mental status and neurologic examination were at 
baseline during admission, and her family confirmed that she 
looked at baseline, with resolution of vague feeling of 
unwellness on presentation. There was petechial hemorrhage noted 
at the site of left temporoparietal infarct that was felt to 
represent minor hemorrhagic transformation, which was stable on 
repeat exams, and felt unlikely to be the explanation for her 
symptoms. She had no findings on examination to suggest a new 
lesion. A toxic-metabolic workup for infection or electrolyte 
abnormality was unremarkable.

Because of report of supratherapeutic INRs in the past 2 weeks 
(>5), it was suggested to the patient and her daughter to switch 
her Coumadin to apixaban instead, to which they were agreeable.

C: The patient was found to be anemic with Hgb 8.6; per daughter 
she has had longstanding anemia ___ thalassemia for which she 
receives outpatient epoeitin injections.

Transitional issues:
[ ] Patient's Coumadin was stopped and she was started on 
Apixaban 2.5mg BID (age >___ and BW 60kg)
[ ] Patient should continue with home services as previously 
arranged post-stroke
[ ] Patient should follow up with her PCP and neurologist

35 minutes were spent on discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 6 mg PO DAILY16 
2. Atorvastatin 20 mg PO QPM 
3. PARoxetine 20 mg PO DAILY 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Spironolactone 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 2.5 mg PO BID 
RX *apixaban [Eliquis] 2.5 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 20 mg PO QPM  
3.  Levothyroxine Sodium 50 mcg PO DAILY  
4.  PARoxetine 20 mg PO DAILY  
5.  Spironolactone 12.5 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Transient malaise likely ___ hypertension
Hemorrhagic conversion of prior left temporoparietal ischemic 
infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized because of transient symptoms of feeling 
poorly, as well as CT findings of a small amount of bleeding in 
your brain.

The bleeding in your brain was found to be in the same area as 
your prior stroke, and is very minor; we do not think this is 
the cause of your symptoms, nor is it a reason for you to stop 
your anticoagulation.

However, because you were having some issues with Coumadin 
dosages as well as the inconvenience of frequent lab draws, we 
did suggest that you switch over to a novel anticoagulant called 
Apixaban, or Eliquis, which does have a safer bleeding risk than 
Coumadin.

The feeling of malaise and unwellness did resolve, and your 
neurologic examination with us was back to your baseline. We 
performed an evaluation to make sure you did not have an acute 
infection or electrolyte abnormality, and all of our tests were 
negative. You worked with our physical therapists who also 
agreed that your function was at baseline.

Please continue to take your other medications for blood 
pressure and high cholesterol. You should follow up with your 
PCP to continue ensuring your good health.

It was a pleasure taking care of you. We wish you the best!
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___